2187-06-11 06:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**6-10**]
   - episode of hypotension overnight:80/40s requiring 500 cc bolus
   - blood glucose normalize and anion gap closed so transition to SQ
   insulin
   - pelvis and foot x-ray confirm no acute fx.
   -restarted on coumadin for a.fib
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2187-6-11**] 12:40 AM
   Piperacillin/Tazobactam (Zosyn) - [**2187-6-11**] 05:50 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-6-11**] 06:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.9
C (98.4
   HR: 93 (88 - 110) bpm
   BP: 102/45(59) {63/30(42) - 121/58(68)} mmHg
   RR: 19 (15 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,954 mL
                                                                  1,700 mL
   PO:
             TF:
   IVF:
                                                                  2,954 mL
                                                                  1,700 mL
   Blood products:
   Total out:
                                                                    860 mL
                                                                    240 mL
   Urine:
                                                                    860 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,094 mL
                                                                  1,460 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: 7.39/29/128/18/-5
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   238 K/uL
   6.6 g/dL
   86 mg/dL
   0.9 mg/dL
   18 mEq/L
   3.4 mEq/L
   15 mg/dL
   118 mEq/L
   148 mEq/L
   22.0 %
   7.0 K/uL
        [image002.jpg]
                             [**2187-6-10**]  12:50 PM
                             [**2187-6-10**]  02:20 PM
                             [**2187-6-10**]  08:00 PM
                             [**2187-6-11**]  04:31 AM
   WBC
   7.0
   Hct
   22.0
   Plt
   238
   Cr
   1.0
   0.9
   0.9
   TropT
   0.03
   0.03
   TCO2
   18
   Glucose
   147
   158
   86
   Other labs: CK / CKMB / Troponin-T:33/6/0.03, ALT / AST:[**11-28**], Alk Phos
   / T Bili:109/0.3, Differential-Neuts:80.3 %, Lymph:14.4 %, Mono:4.7 %,
   Eos:0.2 %, Lactic Acid:2.4 mmol/L, Albumin:2.5 g/dL, LDH:162 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Assessment and Plan
   A/P:  82yo woman with dementia, DM, AFib and DVT on coumadin, and
   recurrent infections from cholangitis/UTIs/C Diff presenting with DKA
   in the setting of an unwitnessed fall.
   .
   # Hypotension:  Most likely secondary to hypovolemia as dependent on
   staff for fluids and has a history of hypernatremia.  This is probably
   worsened by her hyperglycemia.  There is also a concern for sepsis
   given her leukocytosis, tachycardia.  Sources of infection include UTI
   (positive U/A), cholangitis (though LFTs within her baseline), C diff,
   stage IV sacral decub, ?pneumonia (poss LUL infiltrate, currently
   satting high 90s on RA).  Last echo in [**3-22**] showed preserved systolic
   function but diastolic dysfunction.  Currently warm on exam so unlikely
   to have large cardiogenic component; however, does have STD on EKG, 1st
   set of cardiac enzymes neg.
   - IV fluids as tolerated by respiratory status
   - f/u bcxs, ucxs, check c. diff
   - repeat CXR after hydration if becomes hypoxic (currently satting high
   90s on RA)
   - Vanc/Zosyn to cover GI, urinary (h/o resistent e.coli), and skin
   sources
   - Flagyl for empiric C. diff coverage
   - serial CEs, EKG, full dose ASA for now
   .
   # s/p fall:
   Unclear precipitant of fall.  She is very weak with severe arthritis,
   so mechanical fall is a possibility.  Would also consider dehydration
   and/or infection as contributing factors.  Also has STD on EKG, will
   complete ROMI.  1st set of cardiac enzymes are negative.  Likely not to
   be PE given lack of hypoxia, on lovenox bridge for DVT (subtherapeutic
   INR), and no additional troponin leak (within her baseline).
   - IVFs as above
   - infectious work-up as discussed below
   - no bleed on head CT, but will f/u final read of head and C-spine CTs
   as well as pelvis and foot films
   - serial CEs, EKG, full dose ASA for now
   .
   # Diabetic ketoacidosis v. Hyperosmolar hyperglycemia:  BS 420 in ED.
   No ketones on U/A but gap of 17, bicarb of 15.  Started on insulin gtt,
   gap now closed.  [**Month (only) 11**] be due to missing insulin dose in setting of
   fall.  Would also consider possibility that she has a brewing infection
   that led to hyperglycemia, which caused dehydration and fall. For
   possible sources of infection, please see below.
   - check pH on ABG
   - insulin gtt until pt's gap has closed and she is tolerating POs
   - follow serial lytes Q6H until gap closed and taking POs
   - aggressive IV fluids as tolerated by respiratory status
   .
   # Leukocytosis:
   Possible sources of infection include UTI, cholangitis, C diff, stage
   IV sacral decub, ? pneumonia.  She has a h/o drug resistant UTIs as
   well as MRSA.  Alternatively, leukocytosis could be stress reaction in
   setting of recent fall and elevated sugars.  Finally, cardiac ischemia
   can cause elevated glucose and white count.
   - change Foley (has chronic Foley per NH notes)
   - will f/u UCx sent in ED
   - obtain BCx and stool Cx for C diff
   - repeat CXR after hydration if becomes hypoxic (currently satting high
   90s on RA)
   - monitor LFTs given h/o recurrent cholangitis
   - wound care for sacral decub
   .
   # ST depressions on EKG:
   Note that patient has troponin of 0.03 (which appears to be her recent
   baseline) and elevated white cound can be a sign of cardiac ischemia.
   Although she does not c/o chest pain, she is not a reliable historian.
   DDx of her EKG changes includes rate-related demand, cardiac
   ischemia/unstable plaque, or PE.
   - serial EKGs and cardiac enzymes
   - ASA 325 mg
   - consider ECHO
   .
   # Metabolic acidosis:  No ketones on UA.  Mildly elevated lactic acid.
   No uremia.  [**Month (only) 11**] be from starvation.  pH currently normal.
   - cont. to monitor
   .
   # ARF:  baseline Cr 0.7-0.8, current Cr 1.2
   Likely due to dehydration in setting of DKA.  Although she is at risk
   for rhabdomyolysis, her CK was normal in the ED.
   - recheck CK this afternoon to be positive it is not increasing
   - monitor with IVF resuscitation
   - if continues to be elevated, would check urine lytes, sed, eos
   - renally dose meds, avoid nephrotoxins
   .
   # Scalp laceration:
   - s/p repair in the ED
   - will likely need sutures out in 1 week (would review w/ ED staff)
   - Td shot given
   .
   # Left common femoral DVT diagnosed [**3-22**]:
   - continue warfarin for now but could place on heparin gtt if any
   procedures anticipated
   .
   # h/o Hypernatremia/dehydration:
   Recurrent issue because of dementia and water intake.
   - monitor Na [**Hospital1 **]
   .
   # Sacral decubitus ulcer and heel ulcer:
   - wound care consult appreciated
   .
   # Recurrent choledocholithiasis/cholangitis s/p ERCPs/Stent:
   Patient has a pigtail placed [**5-31**].
   - follow LFTs and monitor clinical exam
   - has repeat ERCP in [**11-21**]
   .
   # Anemia of chronic disease: baseline Hct 31, current Hct 31.9
   - maintain active type and screen
   - if develops evidence of end organ ischemia, would transfuse for
   threshold of 30; otherwise, would wait until Hct < 21 or actively
   bleeding
   .
   # AFib on coumadin:  Currently in NSR.
   - currently therapeutic on coumadin
   - hold dilt for now given hypotension earlier and sinus rhythm
   .
   # Alzheimer's Dementia: severe, at baseline.
   .
   # FEN:  IVFs; when pt is tolerating [**Last Name (LF) **], [**First Name3 (LF) 116**] need diabetic diet with
   pureed diet, nectar thicks, 1:1 assistance, HOB elevated, oral care
   [**Hospital1 **],  aspiration precautions
   # Access:  PIVs
   # PPx:  INR therapeutic on coumadin
   # Comm:  Daughter is [**Name (NI) 5133**], ph: [**Telephone/Fax (1) 5134**].
   # Code:  Full Code (confirmed with daughter)
   # Dispo:  medical floor once stable, gap closed, and taking POs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2187-6-10**] 12:58 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2187-06-11 10:54:00 Physician Attending Progress Note
Chief Complaint: Hypotension, sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Experienced episodes of hypotension overnight --> responded to iv fluid
   boluses.
   Otherwise, no clinical change.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, Dementia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2187-6-11**] 05:50 AM
   Metronidazole - [**2187-6-11**] 07:54 AM
   Vancomycin - [**2187-6-11**] 08:26 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2187-6-11**] 10:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37
C (98.6
   HR: 82 (82 - 110) bpm
   BP: 93/44(57) {63/30(42) - 121/59(68)} mmHg
   RR: 16 (11 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  2,954 mL
                                                                  2,528 mL
   PO:
           TF:
   IVF:
                                                                  2,954 mL
                                                                  2,524 mL
   Blood products:
   4 mL
   Total out:
                                                                    860 mL
                                                                    435 mL
   Urine:
                                                                    860 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,094 mL
                                                                  2,093 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.39/29/128/18/-5
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic,
   Frail; chronically ill-appearing
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   6.6 g/dL
   238 K/uL
   86 mg/dL
   0.9 mg/dL
   18 mEq/L
   3.4 mEq/L
   15 mg/dL
   118 mEq/L
   148 mEq/L
   22.0 %
   7.0 K/uL
        [image002.jpg]
                             [**2187-6-10**]  12:50 PM
                             [**2187-6-10**]  02:20 PM
                             [**2187-6-10**]  08:00 PM
                             [**2187-6-11**]  04:31 AM
   WBC
   7.0
   Hct
   22.0
   Plt
   238
   Cr
   1.0
   0.9
   0.9
   TropT
   0.03
   0.03
   TCO2
   18
   Glucose
   147
   158
   86
   Other labs: PT / PTT / INR:20.3/36.9/1.9, CK / CKMB /
   Troponin-T:33/6/0.03, ALT / AST:[**11-28**], Alk Phos / T Bili:109/0.3,
   Differential-Neuts:80.3 %, Lymph:14.4 %, Mono:4.7 %, Eos:0.2 %, Lactic
   Acid:2.4 mmol/L, Albumin:2.5 g/dL, LDH:162 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   82 yof multiple medical problems now with traumatic fall and head
   laceration, and evidence for hyperglycemia and possible sepsis
   (hypothermia).
   HYPOTENSION
 Recurrent.  Attributed primarily to hypovolemia and
   sepsis.  [**Month (only) 11**] be component of cardiogenic etiology with ischemic ECG
   abnormalites.  Doubt adrenal insufficiency, GI bleed, or recurrent
   pulmonary emboli.  Plan continue to monitor BP, maintain MAP > 60 mmHg.
   HYPERGLYCEMIA
 suspect partially-treated DKA
 plan continue iv
   fluids, insulin.  Monitor glucose, HCO3.  Maintain glucose <150.
   SEPSIS
 hypothermia may in part reflect evolving sepsis, in patient
   with recurrent infections and drug resistent colonization.  Sources may
   include urine, possible C. Diff, or cholangitis (recurrent).  Plan
   continue to monitor, replete fliuds, support , empirical antimicrobials
   pending cultures.  Vanco, Zosyn, Flagyl.
   ANEMIA -- Progressive Hct drop.  No clinical evidence for bleed.  No
   evidence for hemolysis.  Monitor stool guiac.  Consider Abd CT if Hct
   continues to fall.  Plan monitor serial Hct, transfuse to Hct >27.
   HYPOKALEMIA -- replete to K>4.0
   HYPERNATREMIA -- evolving, likely related to NS resussitation.  Provide
   free H2O.
   A-FIB
 continue to monitor.  Hold Diltiazem --> resume Diltiazem for
   rate control when BP stable.  Hold coumadin.
   FLUID
 hypovolemia.  Replete.  Monitor I/O.
   LACERATION
 s/p suture repair.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2187-6-10**] 12:58 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2187-06-11 12:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**6-10**]
   - multiple episodea of hypotension overnight: 80/40s requiring 500 cc
   bolus
   - blood glucose normalize, but anion gap persists
   - pelvis and foot x-ray confirm no acute fx., CT head showed no ICH
   -restarted on coumadin for a.fib
   - acute drop in hct, d/ced coumadin and transfuse 1 unit pRBC
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2187-6-11**] 12:40 AM
   Piperacillin/Tazobactam (Zosyn) - [**2187-6-11**] 05:50 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-6-11**] 06:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.9
C (98.4
   HR: 93 (88 - 110) bpm
   BP: 102/45(59) {63/30(42) - 121/58(68)} mmHg
   RR: 19 (15 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,954 mL
                                                                  1,700 mL
   PO:
             TF:
   IVF:
                                                                  2,954 mL
                                                                  1,700 mL
   Blood products:
   Total out:
                                                                    860 mL
                                                                    240 mL
   Urine:
                                                                    860 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,094 mL
                                                                  1,460 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: 7.39/29/128/18/-5
   Physical Examination
   General: alert, follows simple commands, disoriented
   HEENT: PERRL, EOMI, dry mucosal membranes
   CV: RRR S1 S2 grade III/VI SEM
   Resp: CTAB
   Abdomen: soft/ NT/ND + BS
   Ext: +2 DP b/l
   Labs / Radiology
   238 K/uL
   6.6 g/dL
   86 mg/dL
   0.9 mg/dL
   18 mEq/L
   3.4 mEq/L
   15 mg/dL
   118 mEq/L
   148 mEq/L
   22.0 %
   7.0 K/uL
        [image002.jpg]
                             [**2187-6-10**]  12:50 PM
                             [**2187-6-10**]  02:20 PM
                             [**2187-6-10**]  08:00 PM
                             [**2187-6-11**]  04:31 AM
   WBC
   7.0
   Hct
   22.0
   Plt
   238
   Cr
   1.0
   0.9
   0.9
   TropT
   0.03
   0.03
   TCO2
   18
   Glucose
   147
   158
   86
   Other labs: CK / CKMB / Troponin-T:33/6/0.03, ALT / AST:[**11-28**], Alk Phos
   / T Bili:109/0.3, Differential-Neuts:80.3 %, Lymph:14.4 %, Mono:4.7 %,
   Eos:0.2 %, Lactic Acid:2.4 mmol/L, Albumin:2.5 g/dL, LDH:162 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   A/P:  82yo woman with dementia, DM, AFib and DVT on coumadin, and
   recurrent infections from cholangitis/UTIs/C Diff presenting with DKA
   and hypotension in the setting of an unwitnessed fall.
   .
   # Hypotension:  most likely multifactorial: possible etiologies
   including inadequate PO intake exaccerbated by fluid loss [**1-15**]
   hyperglycemia, sepsis, acute blood loss
   -responds well to IVF boluses, not requiring pressors
   -concern for hyperchloremic metabolic acidosis in the setting of
   aggressive fluid resuscitation with NS
   #Sepsis: leukocytosis, hypotension, lactic acidosis on arrival
   -etiology: UTI (positive U/A), cholangitis (though LFTs within her
   baseline), C diff, stage IV sacral decub, ?pneumonia (poss LUL
   infiltrate, currently satting high 90s on RA).  Most likely etiology is
   urosepsis in setting of positive UA and given hx of recurrent UTI
   - IV fluids as tolerated by respiratory status
   - f/u bcxs, ucxs, check c. diff, repeat CXR after hydration if becomes
   hypoxic (currently satting high 90s on RA)
   - monitor LFTs given h/o recurrent cholangitis
   - wound care for sacral decub
   - Vanc/Zosyn to cover GI, urinary (h/o resistent e.coli), and skin
   sources
   - Flagyl for empiric C. diff coverage
   # Diabetic ketoacidosis v. Hyperosmolar hyperglycemia:  BS 420 in ED.
   No ketones on U/A but gap of 17, bicarb of 15.   Although patient only
   missed one dose of insulin may have had predisposition to DKA given
   recent infection.
   -insulin gtt. until gap closes
   - D5NS infusion to prevent hypoglycemia
   - follow serial lytes Q6H until gap closed and taking POs
   - aggressive IV fluids as tolerated by respiratory status
   .
   # s/p fall: no evidence of injury
   -Unclear precipitant of fall:  mechanical fall [**1-15**] weakness,
   dehydration and/or infection, acute MI ruled out by serial EKG and
   troponins
   -CT head negative for ICH, but if mental status diminishes have low
   suspicion to rescan given anticoagulation with coumadin
   - Pelvis/ foot, c-spine films negative for acute fracture
   # Metabolic acidosis:  mixed anion and nonanion gap metabolic acidosis
   - nonanion gap acidosis [**1-15**] fluid resuscitation with NS, try to
   continue fluid resuscitation with hypotonic fluids
   - anion gap acidosis: mix of lactic acidosis and DKA, correct
   underlying etiologies
   # ARF:  baseline Cr 0.7-0.8, current Cr 1.2
   Likely due to dehydration in setting of DKA.  Although she is at risk
   for rhabdomyolysis, her CK was normal in the ED.
   -improving
   .
   # Scalp laceration: s/p repair in ED with Tb shot, stable
   # Anemia of chronic disease with possible overlying acute blood loss:
   - maintain active type and screen, transfuse for active bleeding
   - FOS x 2
   - d/c coumadin until Hct stable
   -monitor serial Hct
   .
   # Anticoagulation: coumadin being held for now for possibility of
   active hemorrhage
   - restart as soon as possible given hx. Of A. fib and DVT in Left
   common femoral on [**3-22**]
   .
   # Alzheimer's Dementia: severe, at baseline.
   .
   ICU Care
   Nutrition: NPO until resolution of DKA when pt is tolerating [**Last Name (LF) **], [**First Name3 (LF) 116**]
   need diabetic diet with pureed diet, nectar thicks, 1:1 assistance, HOB
   elevated, oral care [**Hospital1 **],  aspiration precaution
   Glycemic Control:  on insulin gtt
   Lines:
   20 Gauge - [**2187-6-10**] 12:58 PM
   Prophylaxis:
   DVT: pneumo boots
   Stress ulcer:
   VAP:  aspiration precautions
   Comments:
   Communication:  Comments:
   Code status: full code Bernadetta daughter ph.[**Telephone/Fax (1) 5134**]
   [**Name2 (NI) 1531**]osition:

2187-06-12 06:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**6-11**]
   -CT/abd pelvis out of concern for possible retroperitioneal/abd bleed
   in the setting of falling crit-final read pending
   -bolused 150 mEq Sodium Bicarbonate/ 1000 mL D5W for hypotension,
   pressures normalized
   -stool guiac charted as positive-nurse states "weakly positive", will
   re-test.
   -restart coumadin when crit stable
   -anion gap has closed, transitioned to glargine with HSSI
   -advanced diet
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2187-6-11**] 08:26 AM
   Metronidazole - [**2187-6-12**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2187-6-12**] 06:31 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-6-12**] 12:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-6-12**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 80 (68 - 93) bpm
   BP: 120/43(63) {78/34(47) - 135/83(84)} mmHg
   RR: 22 (13 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,655 mL
                                                                    665 mL
   PO:
                                                                    270 mL
             TF:
   IVF:
                                                                  4,890 mL
                                                                    665 mL
   Blood products:
                                                                    495 mL
   Total out:
                                                                    947 mL
                                                                    350 mL
   Urine:
                                                                    947 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,708 mL
                                                                    315 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   GENERAL: disoriented, alert
   HEENT: Normocephalic, atraumatic. conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. grade IV/VI SEM
   best heard at RSB
   LUNGS: CTAB, no audible crackles or rales
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: grade IV sacral pressure ulcer, no purulent discharge or erythema
   of surrounding skin, stage II left heel ulcer
   NEURO: difficult to assess given patient
s baseline mental status.  CN
   [**1-25**] grossly intact. moves all extremities. Gait assessment deferred
   Labs / Radiology
   232 K/uL
   9.1 g/dL
   118 mg/dL
   0.7 mg/dL
   20 mEq/L
   3.5 mEq/L
   10 mg/dL
   114 mEq/L
   142 mEq/L
   28.3 %
   6.2 K/uL
        [image002.jpg]
                             [**2187-6-10**]  12:50 PM
                             [**2187-6-10**]  02:20 PM
                             [**2187-6-10**]  08:00 PM
                             [**2187-6-11**]  04:31 AM
                             [**2187-6-11**]  04:05 PM
                             [**2187-6-12**]  03:58 AM
   WBC
   7.0
   6.2
   Hct
   22.0
   22.4
   28.3
   Plt
   238
   232
   Cr
   1.0
   0.9
   0.9
   0.8
   0.7
   TropT
   0.03
   0.03
   TCO2
   18
   Glucose
   147
   158
   86
   456
   118
   Other labs: PT / PTT / INR:20.3/36.9/1.9, CK / CKMB /
   Troponin-T:33/6/0.03, ALT / AST:[**11-28**], Alk Phos / T Bili:109/0.3,
   Differential-Neuts:80.3 %, Lymph:14.4 %, Mono:4.7 %, Eos:0.2 %, Lactic
   Acid:2.4 mmol/L, Albumin:2.5 g/dL, LDH:162 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.6 mg/dL, PO4:1.8 mg/dL
   Urine culture: presumptive E. coli, sensitivities pending
   Assessment and Plan
 .H/O DIABETES MELLITUS (DM), TYPE II
 HYPOTENSION (NOT SHOCK)
 .H/O DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 .H/O C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE)
   Assessment and Plan
   A/P:  82yo woman with dementia, DM, AFib and DVT on coumadin, and
   recurrent infections from cholangitis/UTIs/C Diff presenting with DKA
   and hypotension in the setting of an unwitnessed fall.
   .
   # Hypotension:  most likely multifactorial: possible etiologies
   including inadequate PO intake exaccerbated by fluid loss [**1-15**]
   hyperglycemia, sepsis, acute blood loss.  Patient likely has low blood
   pressure at baseline
   -responds well to IVF boluses, not requiring pressors
   -concern for hyperchloremic metabolic acidosis in the setting of
   aggressive fluid resuscitation with NS, resuscitate with
   #Sepsis: leukocytosis, hypotension, lactic acidosis on arrival
   -etiology: Most likely etiology is urosepsis in setting of positive UA
   and given hx of recurrent UTI (resistant to floroquinolones)
   - IV fluids as tolerated by respiratory status
   - f/u bcxs, ucxs
   - cont. zosyn
   - d/c vancomycin and flagyl (c. diff negative x 2)
   # Diabetic ketoacidosis v. Hyperosmolar hyperglycemia:  BS 420 in ED
   with no ketones on U/A but gap of 17, bicarb of 15.   Although patient
   only missed one dose of insulin may have had predisposition to DKA
   given recent infection.   Patient maintained on insulin drip and D5NS
   until anion gap closed.  Serial lytes were monitored
   -on glargine and HSSI
   -restart normal diet, if patient has adequate PO intake may benefit
   from preparandial insulin dose
   # s/p fall: no evidence of injury
   -Unclear precipitant of fall:  mechanical fall [**1-15**] weakness,
   dehydration and/or infection, acute MI ruled out by serial EKG and
   troponins
   -CT head negative for ICH, but if mental status diminishes have low
   suspicion to rescan given anticoagulation with coumadin
   - Pelvis/ foot, c-spine films negative for acute fracture
   # Metabolic acidosis:  mixed anion and nonanion gap metabolic acidosis
   - nonanion gap acidosis [**1-15**] fluid resuscitation with NS, try to
   continue fluid resuscitation with hypotonic fluids
   - anion gap acidosis: mix of lactic acidosis and DKA, correct
   underlying etiologies
   # ARF:  baseline Cr 0.7-0.8, current Cr 1.2
   Likely due to dehydration in setting of DKA.  Although she is at risk
   for rhabdomyolysis, her CK was normal in the ED.
   -improving
   .
   # Scalp laceration: s/p repair in ED with Tb shot, stable
   # Anemia of chronic disease with possible overlying acute blood loss:
   - maintain active type and screen, transfuse for active bleeding
   - FOS x 2
   - d/c coumadin until Hct stable
   -monitor serial Hct
   .
   # Anticoagulation: coumadin being held for now for possibility of
   active hemorrhage
   - restart as soon as possible given hx. Of A. fib and DVT in Left
   common femoral on [**3-22**]
   .
   # Alzheimer's Dementia: severe, at baseline.
   ICU Care
   Nutrition: Pureed (dysphagia); Nectar prethickened liquids 1:1
   assistance, HOB elevation, oral care [**Hospital1 **], aspiration precautions
   Glycemic Control:  glargine and HSSI
   Lines:
   20 Gauge - [**2187-6-10**] 12:57 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition:stable, can transfer to floor

2187-06-12 12:53:00 Physician Attending Progress Note
Chief Complaint: Sepsis, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   No new clinical events.
   Received 2 units PRBC yesterday.  No retroperitoneal bleed on ABD CT.
   Eating with assistance.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, Dementia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2187-6-12**] 08:00 AM
   Metronidazole - [**2187-6-12**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2187-6-12**] 12:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-6-12**] 08:05 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Flowsheet Data as of  [**2187-6-12**] 12:52 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.8
   HR: 84 (68 - 93) bpm
   BP: 122/51(68) {78/35(49) - 135/83(84)} mmHg
   RR: 18 (13 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.3 kg (admission): 54.2 kg
             Total In:
                                                                  5,655 mL
                                                                  1,996 mL
   PO:
                                                                    270 mL
                                                                    480 mL
   TF:
             240 mL
   IVF:
                                                                  4,890 mL
                                                                  1,276 mL
   Blood products:
                                                                    495 mL
   Total out:
                                                                    947 mL
                                                                    865 mL
   Urine:
                                                                    947 mL
                                                                    865 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,708 mL
                                                                  1,132 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal, Confabulatory speech
   Labs / Radiology
   9.1 g/dL
   232 K/uL
   118 mg/dL
   0.7 mg/dL
   20 mEq/L
   3.5 mEq/L
   10 mg/dL
   114 mEq/L
   142 mEq/L
   28.3 %
   6.2 K/uL
        [image002.jpg]
                             [**2187-6-10**]  12:50 PM
                             [**2187-6-10**]  02:20 PM
                             [**2187-6-10**]  08:00 PM
                             [**2187-6-11**]  04:31 AM
                             [**2187-6-11**]  04:05 PM
                             [**2187-6-12**]  03:58 AM
   WBC
   7.0
   6.2
   Hct
   22.0
   22.4
   28.3
   Plt
   238
   232
   Cr
   1.0
   0.9
   0.9
   0.8
   0.7
   TropT
   0.03
   0.03
   TCO2
   18
   Glucose
   147
   158
   86
   456
   118
   Other labs: PT / PTT / INR:20.3/36.9/1.9, CK / CKMB /
   Troponin-T:33/6/0.03, ALT / AST:[**11-28**], Alk Phos / T Bili:109/0.3,
   Differential-Neuts:80.3 %, Lymph:14.4 %, Mono:4.7 %, Eos:0.2 %, Lactic
   Acid:2.4 mmol/L, Albumin:2.5 g/dL, LDH:162 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.6 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   82 yof multiple medical problems now with traumatic fall and head
   laceration, and evidence for hyperglycemia and possible sepsis
   (hypothermia).
   HYPOTENSION
 Recurrent.  Attributed primarily to hypovolemia and
   sepsis.  [**Month (only) 11**] be component of cardiogenic etiology with ischemic ECG
   abnormalites.  Doubt adrenal insufficiency, GI bleed, or recurrent
   pulmonary emboli.  Plan continue to monitor BP, maintain MAP > 60 mmHg.
   HYPERGLYCEMIA
 suspect partially-treated DKA
 plan continue iv
   fluids, insulin.  Monitor glucose, HCO3.  Maintain glucose <150.
   SEPSIS
 hypothermia may in part reflect evolving sepsis, in patient
   with recurrent infections and drug resistent colonization.  Sources
   identified as urine (E.coli).  Plan continue to monitor, replete
   fliuds, support , empirical antimicrobials pending cultures.  Adjust
   antimicrobials to zosyn alone (d/c Vanco, Flagyl)
   ANEMIA -- Progressive Hct drop.  No clinical evidence for bleed.  No
   evidence for hemolysis.  Monitor stool guiac.  Consider Abd CT if Hct
   continues to fall.  Plan monitor serial Hct, transfuse to Hct >27.
   HYPOKALEMIA -- replete to K>4.0
   HYPERNATREMIA -- evolving, likely related to NS resussitation.  Provide
   free H2O.
   HYPOPHOSPHATEMIA --  replete iv
   HYPOMAGNESEMIA -- replete iv
   A-FIB
 continue to monitor.  Hold Diltiazem --> resume Diltiazem for
   rate control when BP stable.  Resume coumadin.
   FLUID
 hypovolemia.  Replete.  Monitor I/O.
   DVT -- resume coumadin.
   LACERATION
 s/p suture repair.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2187-6-10**] 12:57 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill